US09023864B2
[7-(5-Cyclohexyl-[1,2,3]triazol-1-yl)-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl]-acetic acid
The title compound was prepared using procedures described in EXAMPLE 3 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and ethynylcyclohexane. MS (+ESI) m/z: 379.2.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | ethynylcyclohexane | C(#C)C1CCCCC1 | C8H12
product | [7-(5-Cyclohexyl-[1,2,3]triazol-1-yl)-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl]-acetic acid | C1(CCCCC1)C1=CN=NN1C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C22H26N4O2
